US07981903B2
To a suspension of 6-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-2,3-difluorobenzamide (350 mg, 0.732 mmol) in 2,2,2-trifluoroethanol (10 ml) was added 1-[(dimethylamino)acetyl]-5-(methyloxy)-2,3-dihydro-1H-indol-6-amine (228 mg, 0.916 mmol), hydrochloric acid as a 4.0M solution in dioxane (1.47 ml, 5.86 mmol), and catalytic potassium iodide (<10 mg). The resulting slurry was stirred at 90° C. in a pressure vial for 24 hours, at which time all solids had completely dissolved. The resulting solution was cooled to room temperature and diluted with dichloromethane and saturated sodium bicarbonate as to adjust the aqueous layer to pH>10. The organic layer was washed with water and saturated brine solution, dried over sodium sulfate, filtered and solvents were removed under reduced pressure. The resulting green solid was purified via trituration with diethyl ether to afford 5-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-8,9-difluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one (533 mg, 0.791 mmol) as a yellow solid. (ESIMS (M+H)+=674)

reactant | 6-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-2,3-difluorobenzamide | 0.732 mmol, 350 mg | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=CC=C(C(=C2C(=O)N)F)F | C20H14ClF2N5O3S
reactant | 1-[(dimethylamino)acetyl]-5-(methyloxy)-2,3-dihydro-1H-indol-6-amine | 0.916 mmol, 228 mg | CN(C)CC(=O)N1CCC2=CC(=C(C=C12)N)OC | C13H19N3O2
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 5.86 mmol, 1.47 ml | O1CCOCC1 | C4H8O2
reactant | potassium iodide | <10 mg | [I-].[K+]
solvent | 2,2,2-trifluoroethanol | 10 ml | FC(CO)(F)F | C2H3F3O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 5-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-8,9-difluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one | 0.791 mmol, 533 mg | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC1=NC2=C(C3=NC4=CC=C(C(=C4C(N31)=O)F)F)C=CN2S(=O)(=O)C2=CC=C(C=C2)C)OC)C | C33H29F2N7O5S
